US04621901
A mixture of 3.74 g of (4-pentenyl)malonaldehyde tetramethyl acetal, 0.27 ml of water and 75 mg of p-toluenesulphonic acid monohydrate was heated for 2 hours at a bath temperature of 110° C. Thereafter, the mixture was treated with 0.12 ml of triethylamine, left to cool and poured into 80 ml of hexane. The reaction mixture was washed twice with 15 ml of saturated sodium hydrogen carbonate solution each time, dried over sodium sulphate and filtered. Concentration of the filtrate gave 2.4 g of crude 3-methoxy-2-(4-pentenyl)acrolein.

reactant | water | 0.27 ml | O | H2O
reactant | p-toluenesulphonic acid monohydrate | 75 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | triethylamine | 0.12 ml | C(C)N(CC)CC | C6H15N
reactant | hexane | 80 ml | CCCCCC | C6H14
product | 3-methoxy-2-(4-pentenyl)acrolein | 2.4 g | COC=C(C=O)CCCC=C | C9H14O2
